US06878714B2
A mixture of 1-(tert-butyl)-2-bromo-4-nitrobenzene (3 g) and N-methylpiperazine (8 g) was heated neat at 130° C. for 4 h. The residue was purified by column chromatography to give 1-[4-bromo-5-(tert-butyl)-2-nitrophenyl]-4-methylpiperazine, which was hydrogenated to furnish 4-(tert-butyl)-2-(4-methylpiperazinyl)-phenylamine.

reactant | 1-(tert-butyl)-2-bromo-4-nitrobenzene | 3 g | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])Br | C10H12BrNO2
reactant | N-methylpiperazine | 8 g | CN1CCNCC1 | C5H12N2
product | 1-[4-bromo-5-(tert-butyl)-2-nitrophenyl]-4-methylpiperazine | BrC1=CC(=C(C=C1C(C)(C)C)N1CCN(CC1)C)[N+](=O)[O-] | C15H22BrN3O2
